US04416985
A solution of 196 g of 7α-chloro-5,6β-epoxy-15β,16β-methylene-3β-pivaloyloxy-5β-androstan-17-one in 500 ml of acetic acid and 800 ml of tetrahydrofuran is combined at 70° C. with 392 g of zinc dust in two portions at an interval of 30 minutes, and stirred for one hour at this temperature. After cooling, the zinc is filtered off over "Celite" and washed with 5 l of methylene chloride. The combined filtrates are mixed with 1.5 l of water and neutralized under agitation by the addition of solid sodium bicarbonate. The organic phase is then washed with water, dried over sodium sulfate, and concentrated under vacuum. By trituration of the thus-obtained solid with ethyl acetate, 134.7 g of 5-hydroxy-15β,16β-methylene-3β-pivaloyloxy-5β-androst-6-en-17-one is produced, mp 243° C.

reactant | 7α-chloro-5,6β-epoxy-15β,16β-methylene-3β-pivaloyloxy-5β-androstan-17-one | 196 g | Cl[C@H]1[C@H]2[C@@H]3[C@H]4[C@@H](C([C@@]3(C)CC[C@@H]2[C@]2(CC[C@@H](C[C@@]23[C@@H]1O3)OC(C(C)(C)C)=O)C)=O)C4 | C25H35ClO4
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
catalyst | zinc | 392 g | [Zn] | Zn
product | 5-hydroxy-15β,16β-methylene-3β-pivaloyloxy-5β-androst-6-en-17-one | 134.7 g | O[C@@]12C=C[C@H]3[C@@H]4[C@H]5[C@@H](C([C@@]4(C)CC[C@@H]3[C@]2(CC[C@@H](C1)OC(C(C)(C)C)=O)C)=O)C5 | C25H36O4
